US08629158B2
a) 4-Phenethylpiperazin-2-one (CAS Registry Number 23099-72-1) (JP 43017188 to Irikura et al., which is hereby incorporated by reference in its entirety)
A suspension of (2-bromoethyl)benzene (4.10 mL, 30.0 mmol), piperazin-2-one (3.00 g, 30.0 mmol) and K2CO3 (4.90 g, 36.0 mmol) in DMSO (60.0 mL) was stirred at 80° C. for 5 h. The reaction mixture was cooled to room temperature and filtered. The filtrate was then washed with water (200 mL) and extracted with methylene chloride (2×). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated. The result yellow solid was then dissolved in 1 N HCl (120 mL) and washed with methylene chloride. The aqueous layer was separated, basified with 6 N NaOH, and extracted with methylene chloride (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was titrated with hexanes and filtered. The filtered solid was dried under reduced pressure to give the title compound (4.50 g, 74%) as an off-white solid: 1H NMR (500 MHz, CDCl3) δ 7.31-7.28 (m, 2H), 7.23-7.19 (m, 3H), 6.17 (brs, 1H), 3.40-3.37 (m, 2H), 3.23 (s, 2H), 2.83-2.79 (m, 2H), 2.73-2.67 (m, 4H).

reactant | (2-bromoethyl)benzene | 30.0 mmol, 4.10 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | piperazin-2-one | 30.0 mmol, 3.00 g | N1C(CNCC1)=O | C4H8N2O
reactant | K2CO3 | 36.0 mmol, 4.90 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 60.0 mL | CS(=O)C | C2H6OS
product | 4-Phenethylpiperazin-2-one | 4.50 g, 74% | C(CC1=CC=CC=C1)N1CC(NCC1)=O | C12H16N2O
